US08420631B2
Dissolve 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (425 mg, 1 mmol), bis(triphenylphosphine)-palladium(II) chloride (0.1 equiv.), 3-[(2,2,2-trifluoroethyl-amino)-methyl]-phenyl-boronic acid (465 mg, 2.0 mmol) and sodium carbonate (2 equiv.) in THF/water (2:1, 15 mL) and heat the mixture at 80° C. for 6 h. Cool the reaction mixture to ambient temperature, dilute with EtOAc and wash with water. Dry the organic fraction over MgSO4, filter and concentrate in vacuo to obtain 7-chloro-3-(2,2,2-trifluoroacetyl)-6-{3-[(2,2,2-trifluoroethyl-amino)-methyl]-phenyl}-2,3,4,5-tetrahydro-1H-benzo[d]azepine, suitable for use without further purification.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1 mmol, 425 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 3-[(2,2,2-trifluoroethyl-amino)-methyl]-phenyl-boronic acid | 2.0 mmol, 465 mg | FC(CNCC=1C=C(C=CC1)B(O)O)(F)F | C9H11BF3NO2
reactant | sodium carbonate | 2 equiv. | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF water | 15 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.1 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-{3-[(2,2,2-trifluoroethyl-amino)-methyl]-phenyl}-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C1=CC(=CC=C1)CNCC(F)(F)F | C21H19ClF6N2O
